US04929741
A solution of 9.3 g (37 mmol) of 4-(1-ethoxyethoxy)-1-(4-fluorophenyl)-2-butyn-l-ol in 50 ml of methylene chloride was added dropwise at 0° to a suspension of 95 g (1.1 mol) of manganese dioxide in 150 ml of methylene chloride. The reaction mixture was stirred at 0° for 10 minutes, filtered over magnesium sulphate and concentrated. Chromatography of the residue on 300 g of silica gel (elution agent ether/hexane 1:1) yielded 4 -(1-ethoxyethoxy)- 1-(4-fluorophenyl)-2-butyn- 1-one as an oil.

reactant | 4-(1-ethoxyethoxy)-1-(4-fluorophenyl)-2-butyn-l-ol | 37 mmol, 9.3 g | C(C)OC(C)OCC#CC(O)C1=CC=C(C=C1)F | C14H17FO3
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 1.1 mol, 95 g | [O-2].[O-2].[Mn+4]
product | 4 -(1-ethoxyethoxy)- 1-(4-fluorophenyl)-2-butyn- 1-one | C(C)OC(C)OCC#CC(=O)C1=CC=C(C=C1)F | C14H15FO3
